US08227492B2
Step 3: Preparation of 4-(2-Methoxy-ethylsulfanyl)-benzoic acid methyl ester
4-(2-Methoxy-ethylsulfanyl)-benzoic acid was esterified in methanol by adding catalytic amount of sulfuric acid. Subsequent work up afforded 4 g of desired product in 78% yield.

reactant | 4-(2-Methoxy-ethylsulfanyl)-benzoic acid | COCCSC1=CC=C(C(=O)O)C=C1 | C10H12O3S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | 4-(2-Methoxy-ethylsulfanyl)-benzoic acid methyl ester | 4 g, 78% yield | COC(C1=CC=C(C=C1)SCCOC)=O | C11H14O3S
